US05187161
In 1600 ml of acetic acid were dissolved 400 g of 2-(1,1-dimethylethyl)-4-methoxyphenol, 360 g of 40% glyoxal solution and 20 ml of 36% hydrochloric acid and the solution was heated at 120° C. with stirring for 4 hours. The reaction mixture was concentrated under reduced pressure and allowed to stand overnight. The resultant solid residue was washed with diethyl ether to give 105 g of 7-(1,1-dimethyethyl)-5-methoxy-2(3H)-benzofuranone as a light red solid.

reactant | 2-(1,1-dimethylethyl)-4-methoxyphenol | 400 g | CC(C)(C)C1=C(C=CC(=C1)OC)O | C11H16O2
reactant | glyoxal | 360 g | C(=O)C=O | C2H2O2
reactant | hydrochloric acid | 20 ml | Cl | ClH
solvent | acetic acid | 1600 ml | C(C)(=O)O | C2H4O2
product | 7-(1,1-dimethyethyl)-5-methoxy-2(3H)-benzofuranone | 105 g | CC(C)(C)C1=CC(=CC=2CC(OC21)=O)OC | C13H16O3
